US07507740B2
(i) Production of 2-cyano-1-(2-furyl)vinyl 4-methylbenzenesulfonate
To a mixture of 3-(2-furyl)-3-oxopropanenitrile (5.29 g), p-toluenesulfonyl chloride (9.00 g) and dichloromethane (60 mL) was added dropwise triethylamine (5.99 g) under ice-cooling. After stirring under ice-cooling for 1.5 hrs, the mixture was diluted with dichloromethane (100 mL). The mixture washed with water (150 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:methyl acetate=9:1→3:1) to give the title compound (10.48 g) as a mixture of (E)-form and (Z)-form (3:1).

reactant | 3-(2-furyl)-3-oxopropanenitrile | 5.29 g | O1C(=CC=C1)C(CC#N)=O | C7H5NO2
reactant | p-toluenesulfonyl chloride | 9.00 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 5.99 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-cyano-1-(2-furyl)vinyl 4-methylbenzenesulfonate | 10.48 g | CC1=CC=C(C=C1)S(=O)(=O)OC(=CC#N)C=1OC=CC1 | C14H11NO4S
